US07378417B2
7-Cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-methanesulfonyl-phenyl)-amide
The title compound was prepared from 7-cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.29) and 3-methanesulfonyl-phenylamine according to general procedure II. Pale-yellow solid. MS (ISP) 501.3 [(M+H)+]; mp 231-234° C.

reactant | 7-cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | C1(CC1)C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F | C17H12F3N3O2
reactant | 3-methanesulfonyl-phenylamine | CS(=O)(=O)C=1C=C(C=CC1)N | C7H9NO2S
product | 7-Cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-methanesulfonyl-phenyl)-amide | CS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C2CC2)C2=CC=C(C=C2)C(F)(F)F | C24H19F3N4O3S
